US04642307
A mixture of 7.47 grams of 2-chloro-3-piperidinophenol, 29.00 grams of epibromohydrin, 28.79 grams of potassium carbonate and 400 ml of acetonitrile is heated to reflux for twenty hours, insoluble matters are removed therefrom by filtration, the filtrate is entirely concentrated to dryness, and the residue is purified by a silica gel chromatography followed by recrystallization from n-hexane to give 8.0 grams (85%) of 1-(2-chloro-3-piperidinophenoxy)-2,3-epoxypropane as colorless crystals of m.p. 55°-57° C. NMR (CDCl3): δ 1.55-1.95 (m, 6H), 2.75-3.19 (m, 7H), 4.10 (dd, 1H, J=11 Hz and 14 Hz), 4.18 (dd, 1H, J=11 Hz and 21 Hz), 6.54-6.77 (m, 2H). Elementary analysis calculated as C14H18ClNO2 : C 62.80, H 6.78, N 5.23, Cl 13.24; Found: C 62.61, H 6.87, N 5.08, Cl 13.15.

reactant | 2-chloro-3-piperidinophenol | 7.47 grams | ClC1=C(C=CC=C1N1CCCCC1)O | C11H14ClNO
reactant | epibromohydrin | 29.00 grams | C(Br)C1CO1 | C3H5BrO
reactant | potassium carbonate | 28.79 grams | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
product | 1-(2-chloro-3-piperidinophenoxy)-2,3-epoxypropane | 8.0 grams, 85% | ClC1=C(OCC2CO2)C=CC=C1N1CCCCC1 | C14H18ClNO2
